US05361148
3-fluoro-4-diethylaminobenzenecarboxaldehyde
In a 250 mL round bottom flask equipped with stirbar, condenser and nitrogen inlet was placed 3,4-difluorobenzaldehyde (25.0 g, 176 mmol), dimethylsulfoxide (50 mL) and diethylamine (38.6 g, 528 mmol). The resulting solution was boiled gently for 6 hr at which time thin layer chromatography indicated all the difluorobenzaldehyde was consumed. The solution was cooled and transferred to a separatory funnel with ethyl acetate and water. The phases were separated, the organic phase washed well with water, dried (MgSO4) and filtered through a short pad of silica gel. Silica gel (50 g) was added to the filtrate and the mixture concentrated to dryness. This material was placed at the top of a column of silica gel and eluded with a gradient of ethylacetate in hexane (0→4%). Concentration of the pure fractions by rotary evaporation afforded a light brown oil (31.97 g, 92%) of sufficient purity for subsequent transformations: IR (CCl4)1695 cm-1 ; 1H NMR (CDCl3)δ9.70 (s, 1H), 7.41-7.50 (m, 2H), 6.78 (t, J= 8Hz, 1H), 3.39 (q, J=7 Hz, 4H), 1.20 (t, J=7 Hz, 6H); 13C NMR (CDCl3) ppm 189.048, 151.901 (d, J=244 Hz), 142.844 (d, J=8 Hz), 127.880. 126.244 (d, 6 Hz), 116.433 (d, J=23Hz), 115.316 (d, 5 Hz), 45.845 (d, J=6Hz), 12.858 d,J=1 Hz).

reactant | 3,4-difluorobenzaldehyde | 176 mmol, 25.0 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | diethylamine | 528 mmol, 38.6 g | C(C)NCC | C4H11N
reactant | difluorobenzaldehyde | FC=1C(=C(C=O)C=CC1)F | C7H4F2O
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
product | 3-fluoro-4-diethylaminobenzenecarboxaldehyde | 31.97 g, 92% | FC=1C=C(C=CC1N(CC)CC)C=O | C11H14FNO
